US07470791B2
Synthesis of 3-cyclopropylmethoxy-4-difluoromethoxybenzoyl chloride
A reaction vessel is charged with toluene, a catalytic amount of DMF (1-5% by weight of the amount of thionyl chloride employed) and 1 equivalent of 3-cyclopropylmethoxy-4-difluoromethoxybenzoic acid. While stirring, 1 to 4 equivalents of thionyl chloride are slowly added at 70 to 90° C.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-cyclopropylmethoxy-4-difluoromethoxybenzoic acid | 1 equivalent | C1(CC1)COC=1C=C(C(=O)O)C=CC1OC(F)F | C12H12F2O4
reactant | thionyl chloride | 1 to 4 equivalents | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-cyclopropylmethoxy-4-difluoromethoxybenzoyl chloride | C1(CC1)COC=1C=C(C(=O)Cl)C=CC1OC(F)F | C12H11ClF2O3
